US05081131
6-Benzyl-N-(3-(1H-imidazol-1-yl)butyl)benz(cd)indol-2-amine
The Wolff-Kishner-Huang Minlon reductive procedure is applied to 6-benzoylbenz(cd)indol-2-one to yield 6-benzylbenz(cd)indol-2(1H)-one which is converted to 6-benzylbenz(cd)indol-2-thiol by P2S5 in refluxing pyridine. The reaction of the latter compound with 3-(1H-imidazol-1-yl)butanamine and mercuric acetate in refluxing ethanol, under the conditions of Example 55, leads to the title compound.

reactant | 6-benzylbenz(cd)indol-2-thiol | C(C1=CC=CC=C1)C=1C=2C3=C(C(=NC3=CC1)S)C=CC2 | C18H13NS
reactant | P2S5 | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 3-(1H-imidazol-1-yl)butanamine | N1(C=NC=C1)C(CCN)C | C7H13N3
solvent | ethanol | C(C)O | C2H6O
product | 6-Benzyl-N-(3-(1H-imidazol-1-yl)butyl)benz(cd)indol-2-amine | C(C1=CC=CC=C1)C=1C=2C3=C(C(=NC3=CC1)NCCC(C)N1C=NC=C1)C=CC2 | C25H24N4
